US09227918B2
To 429 μL (10.6 mmol) of methanol was slowly added 85 mg (2.1 mmol) of sodium hydride (60% dispersion in mineral oil). This mixture was then added to a separate solution of 387 mg (1.06 mmol) of dimethyl 2-(3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)phenyl)malonate in 5 mL of tetrahydrofuran. The resulting solution was refluxed for 2 h then cooled to 22° C. An additional 85 mg of NaH in 429 ml of methanol was added and the solution was again heated to reflux for about 16 h. The solvent was evaporated and the residue partitioned between saturated NH4Cl and ethyl acetate. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified by flash chromatography on silica gel, eluting first with hexane and then gradually increasing to 15% ethyl acetate/hexane to give methyl 2-(3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)phenyl)acetate.

reactant | sodium hydride | 2.1 mmol, 85 mg | [H-].[Na+]
reactant | dimethyl 2-(3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)phenyl)malonate | 1.06 mmol, 387 mg | C(C)(C)(C)OC(=O)N(CCC=1C=C(C=CC1)C(C(=O)OC)C(=O)OC)C | C19H27NO6
reactant | NaH | 85 mg | [H-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 429 ml | CO | CH4O
solvent | methanol | 10.6 mmol, 429 μL | CO | CH4O
product | methyl 2-(3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)phenyl)acetate | C(C)(C)(C)OC(=O)N(CCC=1C=C(C=CC1)CC(=O)OC)C | C17H25NO4
